US05849921
1-(4-Fluorophenyl)-1-(4-methyl-5-oxazolyl)methanol
4-Methyl-5-oxazolecarbaldehyde (770 mg) in dry tetrahydrofuran (15 ml) was added dropwise to a stirred solution of 4-fluorophenyl magnesium bromide (1M solution in tetrahydrofuran, 7.3 ml) in tetrahydrofuran (30 ml) at -70° C. under an atmosphere of dry nitrogen. After 1 hour the mixture was allowed to warm to room temperature and was then poured into saturated aqueous sodium hydrogen carbonate. Extraction with ethyl acetate followed by flash chromatography gave the title compound. M.p. 102.5°-104° C.

reactant | 4-Methyl-5-oxazolecarbaldehyde | 770 mg | CC=1N=COC1C=O | C5H5NO2
reactant | 4-fluorophenyl magnesium bromide | 1M, 7.3 ml | FC1=CC=C(C=C1)[Mg]Br
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(4-Fluorophenyl)-1-(4-methyl-5-oxazolyl)methanol | FC1=CC=C(C=C1)C(O)C1=C(N=CO1)C | C11H10FNO2
